US09023846B2
A mixture of 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-4-yl]-amide (428 mg, 0.650 mmol, prepared as described in the previous step) and iron powder (291 mg, 5.22 mmol) in 1:1 AcOH/EtOH (7 mL) was stirred at 100° C. under Ar for 1 h. After cooling to room temperature, the mixture was treated with EtOAc (20 mL) and filtered through diatomaceous earth. The filtrate was concentrated in vacuo and the residue was purified by flash chromatography on silica gel (0:100-10:90 EtOAc/hexanes) to yield 2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-6-(2-trifluoromethyl-phenyl)-3H-imidazo[4,5-c]pyridine as a white solid. 1H-NMR (400 MHz, CD3OD) δ: 7.81 (d, 1H), 7.65-7.71 (m, 1H), 7.55-7.62 (m, 2H), 7.31 (s, 1H), 4.64 (t, J=4.9 Hz, 2H), 4.02-4.10 (m, 5H), 1.44 (s, 9H), 0.86 (s, 9H), 0.06 (s, 6H). Mass Spectrum (LCMS, ESI pos.) Calculated For C29H37ClF3N5O2Si: 608.2 (M+H), Measured: 608.3.

reactant | 5-tert-butyl-4-chloro-2-methyl-2H-pyrazole-3-carboxylic acid [2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-4-yl]-amide | C(C)(C)(C)[Si](OCCOC1=NC(=CC(=C1[N+](=O)[O-])NC(=O)C=1N(N=C(C1Cl)C(C)(C)C)C)C1=C(C=CC=C1)C(F)(F)F)(C)C | C29H37ClF3N5O5Si
reactant | AcOH EtOH | 7 mL | CC(=O)O.CCO
catalyst | iron | 5.22 mmol, 291 mg | [Fe] | Fe
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-6-(2-trifluoromethyl-phenyl)-3H-imidazo[4,5-c]pyridine | C(C)(C)(C)C=1C(=C(N(N1)C)C1=NC2=C(C(=NC(=C2)C2=C(C=CC=C2)C(F)(F)F)OCCO[Si](C)(C)C(C)(C)C)N1)Cl | C29H37ClF3N5O2Si
